US05241064
To a solution of ethyl 2-[(1R)-1-(t-butyldimethylsilyloxy)ethyl]acrylate (15 g) in methanol (300 ml) was added 4-methoxybenzylamine (8.05 g) at room temperature. After stirring for 2 days, the solvent was removed by evaporation to give crude ethyl (2S,3R)-3-(t-butyldimethylsilyloxy)-2-(4-methoxybenzylaminomethyl)butanoate (25.14 g).

reactant | ethyl 2-[(1R)-1-(t-butyldimethylsilyloxy)ethyl]acrylate | 15 g | [Si](C)(C)(C(C)(C)C)O[C@H](C)C(C(=O)OCC)=C | C13H26O3Si
reactant | 4-methoxybenzylamine | 8.05 g | COC1=CC=C(CN)C=C1 | C8H11NO
solvent | methanol | 300 ml | CO | CH4O
product | ethyl (2S,3R)-3-(t-butyldimethylsilyloxy)-2-(4-methoxybenzylaminomethyl)butanoate | 25.14 g | [Si](C)(C)(C(C)(C)C)O[C@@H]([C@@H](C(=O)OCC)CNCC1=CC=C(C=C1)OC)C | C21H37NO4Si
